US08809333B2
To a solution of 2-(1H-pyrazol-4-yl)-1,3-benzoxazole (0.250 g, 1.35 mmol) in acetonitrile (10 mL) was added cesium carbonate (1.10 g, 3.38 mmol, 2.5 eq), sodium iodide (0.041 g, 0.270 mmol, 0.2 eq) and (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate (0.504 g, 1.76 mmol, 1.3 eq). The mixture was heated at 50° C. overnight. The reaction mixture was filtered over a pad of diatomateous earth. The filtrate was evaporated and the crude was purified by flash chromatography on silica gel eluting with 10-100% ethyl acetate/heptane to give ethyl (2R)-4-[4-(1,3-benzoxazol-2-yl)-1H-pyrazol-1-yl]-2-methyl-2-(methylsulfonyl)butanoate (0.482 g, 91% yield) as a white solid. LC-MS M+H+392.1.

reactant | 2-(1H-pyrazol-4-yl)-1,3-benzoxazole | 1.35 mmol, 0.250 g | N1N=CC(=C1)C=1OC2=C(N1)C=CC=C2 | C10H7N3O
reactant | cesium carbonate | 3.38 mmol, 1.10 g, 2.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 0.270 mmol, 0.041 g, 0.2 eq | [I-].[Na+]
reactant | (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 1.76 mmol, 0.504 g, 1.3 eq | BrCC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | ethyl (2R)-4-[4-(1,3-benzoxazol-2-yl)-1H-pyrazol-1-yl]-2-methyl-2-(methylsulfonyl)butanoate | 0.482 g, 91% yield | O1C(=NC2=C1C=CC=C2)C=2C=NN(C2)CC[C@](C(=O)OCC)(S(=O)(=O)C)C | C18H21N3O5S
